US04665093
Preparation of N-methoxy-2-fluorobenzhydroxamic Acid
To a stirred mixture of 30.3 g (0.363 moles) methoxyamine hydrochloride and 51 g (0.37 moles) potassium carbonate in about 300 ml water/methylene chloride maintained at a temperature below -5° C., 50 g (0.32 moles) 2-fluoro-benzoylchloride were dropped in. The reaction mixture was then allowed to stir at room temperature overnight. The aqueous and methylene chloride layers were separated. The methylene chloride layer was dried over magnesium sulfate, filtered and stripped to give about 45 g of the above-identified product, as a clear amber liquid.

reactant | methoxyamine hydrochloride | 0.363 moles, 30.3 g | Cl.CON
reactant | potassium carbonate | 0.37 moles, 51 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-benzoylchloride | 0.32 moles, 50 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | water methylene chloride | about 300 ml | O.C(Cl)Cl
product | N-methoxy-2-fluorobenzhydroxamic Acid | about 45 g | CON(O)C(C1=C(C=CC=C1)F)=O | C8H8FNO3
